US07427632B2
N-[(R)-2-[(1-Isopropylpiperidin-4-ylmethyl)(methyl)amino]-1-phenylethyl]carbamic acid tert-butyl ester
Using alkylation method B, N-[(R)-2-[(1-isopropyl-piperidin-4-ylmethyl)amino]-1-phenylethyl]carbamic acid tert-butyl ester (511 mg, 1.4 mmol) and paraformaldehyde (816 mg, 27 mmol) afforded 522 mg (98%) of the title compound as a crude residue that was used without further purification.

reactant | N-[(R)-2-[(1-isopropyl-piperidin-4-ylmethyl)amino]-1-phenylethyl]carbamic acid tert-butyl ester | 1.4 mmol, 511 mg | C(C)(C)(C)OC(N[C@@H](CNCC1CCN(CC1)C(C)C)C1=CC=CC=C1)=O | C22H37N3O2
reactant | paraformaldehyde | 27 mmol, 816 mg | C=O | CH2O
product | N-[(R)-2-[(1-Isopropylpiperidin-4-ylmethyl)(methyl)amino]-1-phenylethyl]carbamic acid tert-butyl ester | 522 mg, 98% | C(C)(C)(C)OC(N[C@@H](CN(C)CC1CCN(CC1)C(C)C)C1=CC=CC=C1)=O | C23H39N3O2
